US07674789B2
23e) N-(3-{8-(2,6-difluorophenyl)-7-oxo-2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methylphenyl)-3-fluoro-4-methylbenzamide
The compound N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-fluoro-4-methylbenzamide (0.070 g, 0.107 mmol) was dissolved in DMF (1.5 mL) and treated with 4-amino-2,2,6,6-tetramethylpiperidine (62 ul, 0.361 mmol). Stirring at room temperature and heating to 70° C. under argon produced no reaction so the mixture was microwaved at 200° C. for 15 min. The solvent was removed in vacuo and the crude product was purified by flash chromatography on silica gel, eluting with CH2C2—10% MeOH/CH2C2. The product was repurified by the same method to afford the title compound as a white solid. mp (dec) 220° C.; LC-MS m/z 659 (M+H)+, 1.94 min (ret. time).

reactant | N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-fluoro-4-methylbenzamide | 0.107 mmol, 0.070 g | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(C2=CC(=C(C=C2)C)F)=O)S(=O)(=O)C)=O | C28H22F3N5O4S
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | 0.361 mmol, 62 ul | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | N-(3-{8-(2,6-difluorophenyl)-7-oxo-2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methylphenyl)-3-fluoro-4-methylbenzamide | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(C2=CC(=C(C=C2)C)F)=O)NC2CC(NC(C2)(C)C)(C)C)=O | C36H38F3N7O2
